US09371320B2
C) 1-benzyl-3,3-difluoropiperidine-4,4-diol
A mixture of ethyl 1-benzyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydropyridine-3-carboxylate (5.0 g) and conc. hydrochloric acid (40 mL) in 1,4-dioxane (15 mL) was stirred at 80° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, and diluted with ethyl acetate, and the mixture was adjusted to pH-9 with saturated aqueous sodium carbonate solution. The aqueous layer was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was washed with dichloromethane to give the title compound (1.40 g).

reactant | ethyl 1-benzyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydropyridine-3-carboxylate | 5.0 g | C(C1=CC=CC=C1)N1CC(=C(C(C1)(F)F)O)C(=O)OCC | C15H17F2NO3
reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 1-benzyl-3,3-difluoropiperidine-4,4-diol | 1.40 g | C(C1=CC=CC=C1)N1CC(C(CC1)(O)O)(F)F | C12H15F2NO2
